US08168658B2
Step C: Methyl 4-{3-tert-butoxy-2-[(tert-butoxycarbonyl)amino]-3-oxopropyl}benzoate.
Tert-butyl[(tert-butoxycarbonyl)amino]acetate (1.01 g, 4.37 mmol) was dissolved in THF (10 mL) and cooled to −78° C. LiHMDS (6.5 mL, 1M solution in THF) was slowly added and allowed to stir for 30 minutes. Methyl 4-(bromomethyl)benzoate (1.98 g, 8.64 mmol) in THF (6 mL) was added to the mixture and allowed to stir overnight, slowly warming to room temperature. The reaction was diluted with ethyl acetate and quenched with saturated ammonium chloride. The aqueous layer was extracted three times with ethyl acetate. The combined organic layer was dried over sodium sulfate, filtered, and concentrated. The resulting residue was purified by column chromatography. MS: cal'd 379 (MH+), exp 402 (MH+).

reactant | Tert-butyl[(tert-butoxycarbonyl)amino]acetate | 4.37 mmol, 1.01 g | C(C)(C)(C)OC(CNC(=O)OC(C)(C)C)=O | C11H21NO4
reactant | LiHMDS | 1M, 6.5 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Methyl 4-(bromomethyl)benzoate | 8.64 mmol, 1.98 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-{3-tert-butoxy-2-[(tert-butoxycarbonyl)amino]-3-oxopropyl}benzoate | C(C)(C)(C)OC(C(CC1=CC=C(C(=O)OC)C=C1)NC(=O)OC(C)(C)C)=O | C20H29NO6
